US06982348B2
To a solution of (4RS,5SR)-5-(4-fluorophenyl)-4-((2-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidin-2-one (10.95 g, 32.3 mmol) in ethanol (200 ml) was added 8N aqueous sodium hydroxide solution (20 ml, 160 mmol) and the mixture was heated under reflux for 4 hrs. The reaction solution was concentrated, diluted with water (200 ml) and extracted with ethyl, acetate (200 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-(2-(trifluoromethyl)phenyl)-1-propanol (7.56 g, 75%).

reactant | (4RS,5SR)-5-(4-fluorophenyl)-4-((2-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidin-2-one | 32.3 mmol, 10.95 g | FC1=CC=C(C=C1)C1C(NC(O1)=O)CC1=C(C=CC=C1)C(F)(F)F | C17H13F4NO2
reactant | sodium hydroxide | 160 mmol, 8N, 20 ml | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-(2-(trifluoromethyl)phenyl)-1-propanol | 7.56 g, 75% | NC(C(O)C1=CC=C(C=C1)F)CC1=C(C=CC=C1)C(F)(F)F | C16H15F4NO
